US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.94 mmol) was treated with 3-fluoro-propylamine following general procedure B to afford 4-(3-fluoro-propylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (262 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (196 mg) following general procedure E. The above ethylamide (0.64 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 3-ethyl-1-(3-fluoro-propyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (138 mg). LCMS: m/z 332 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.94 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 3-fluoro-propylamine | FCCCN | C3H8FN
product | 4-(3-fluoro-propylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 262 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCCCF)OC | C16H19FN2O3
